US06737426B1
Preparation of 1-(4-phenylsulfonyl-2-o-tolyl-oxazol-5-yl)piperazine hydrochloride
1-(4-Phenylsulfonyl-2-o-tolyl-oxazol-5-yl)piperazine (0.2 g, 0.556 mmol) was dissolved in tetrahydrofuran (15 ml) and methanol (15 ml), mixed with methanolic hydrochloric acid (2 ml) at room temperature and subsequently stirred for 1 h. The precipitated crystals were filtered off with suction, washed with a small amount of tetrahydrofuran and dried in air.

reactant | 1-(4-Phenylsulfonyl-2-o-tolyl-oxazol-5-yl)piperazine | 0.556 mmol, 0.2 g | C1(=CC=CC=C1)S(=O)(=O)C=1N=C(OC1N1CCNCC1)C1=C(C=CC=C1)C | C20H21N3O3S
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methanol | 15 ml | CO | CH4O
product | 1-(4-phenylsulfonyl-2-o-tolyl-oxazol-5-yl)piperazine hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)C=1N=C(OC1N1CCNCC1)C1=C(C=CC=C1)C | InChI=1S/C20H21N3O3S.ClH/c1-15-7-5-6-10-17(15)18-22-19(20(26-18)23-13-11-21-12-14-23)27(24,25)16-8-3-2-4-9-16;/h2-10,21H,11-14H2,1H3;1H
